US07262200B2
Step F: (2-Chloro-6-piperidin-1-yl-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine
To 2,4-Dichloro-6-piperidin-1-yl-quinazoline (100 mg, 0.365 mmol), in ethanol (5 omL) was added 5-Cyclopropyl-2H-pyrazol-3-ylamine (88 mg 0.71 mmol). The additional resulted in the formation of a white precipitate. The partial solution was stirred for 10 hr and (2-Chloro-6-piperidin-1-yl-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine was colleted by filtration to give 80 mg (61% yield). HPLC tr=4.90 min (100%), LCMS m/e 369.31 (M+H), 367.28 (M−H) tr=3.41 min, HNMR (500 MHz, dmso): □12.30–12.25 (1H, bs), 10.67 (1H, s), 7.80–7.85 (1H, s), 7.65 91H, d), 7.50 (1H, d), 6.50 (1H, bs), 3.40 (4H, m0, 2.90 (1H, m), 1.70–1.55 (6H, m), 0.95 (2H, m), 0.70 (2H, m).

reactant | 2,4-Dichloro-6-piperidin-1-yl-quinazoline | 0.365 mmol, 100 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)N1CCCCC1 | C13H13Cl2N3
reactant | 5-Cyclopropyl-2H-pyrazol-3-ylamine | 0.71 mmol, 88 mg | C1(CC1)C=1C=C(NN1)N | C6H9N3
solvent | ethanol | C(C)O | C2H6O
product | (2-Chloro-6-piperidin-1-yl-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 61% yield | ClC1=NC2=CC=C(C=C2C(=N1)NC=1NN=C(C1)C1CC1)N1CCCCC1 | C19H21ClN6
